US04492692
A suspension of 2-furoamide in 1,2-dichloroethane was treated with oxalyl chloride; 2-furoylisocyanate was isolated by distillation. This product was reacted with the hydroxypropylimidazole, as for the starting material of Example 12, to give 2-fluoro-4-[3-(fur-2-yl)carbamoyloxypropyl]-1-triphenylmethylimidazole, having the following n.m.r. spectrum in d6DMSO: 1.82 (m, 2H); 2.47 (t, 2H); 4.07 (t, 2H); 6.3 (s, 1H); 6.64 (m, 1H); 7.0-7.45 (m, 15H); 7.5 (m, 1H); 7.91 (m, 1H); 10.1 (br, 1H).

reactant | 2-furoamide | O1C(=CC=C1)C(=O)N | C5H5NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-furoylisocyanate | O1C(=CC=C1)C(=O)N=C=O | C6H3NO3
